US06492399B1
N-Methyl-N-(tert-butoxycarbonyl)-3-buten-1-amine
Under a nitrogen atmosphere, a stirring, ice-cold (2° C.) solution of N-methyl-3-buten-1-amine (4.78 g, 56.2 mmol) in dry THF (20 mL, freshly distilled from sodium and benzophenone) was treated in portions with di-tert-butyl dicarbonate (12.26 g, 56.2 mmol) over 10 min., allowing the carbon dioxide evolution to subside between additions. The resulting colorless solution was allowed to warm to ambient temperature. The THF was removed by rotary evaporation, and the resulting light-yellow liquid was vacuum distilled using a 6 in. Vigreaux column and a short-path distillation apparatus. The fraction with bp 70° C. at 3.5 mm Hg was collected to give 4.19 g (40.2%) of a colorless oil.

reactant | N-methyl-3-buten-1-amine | 56.2 mmol, 4.78 g | CNCCC=C | C5H11N
reactant | sodium | [Na] | Na
reactant | benzophenone | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
reactant | di-tert-butyl dicarbonate | 56.2 mmol, 12.26 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | carbon dioxide | C(=O)=O | CO2
solvent | THF | C1CCOC1 | C4H8O
product | N-Methyl-N-(tert-butoxycarbonyl)-3-buten-1-amine | 4.19 g, 40.2% | CN(CCC=C)C(=O)OC(C)(C)C | C10H19NO2
